US04495202
C. Preparation of 3,4-bis(4-methoxyphenyl)-2-cyclohexen-1-one
A solution of 212.0 g. of 1,2-bis(4-methoxyphenyl)-1,5-hexanedione and 650 ml. of 2N potassium hydroxide in three liters of 2B ethanol was heated to reflux for two hours. The solution was cooled and 110 ml. of concentrated hydrochloric acid were added. The solution was then concentrated in vacuo. One liter of water and 1.5 liters of ethyl acetate were added to the residue. The layers were separated. The aqueous layer was extracted three times each with 800 ml. of ethyl acetate. The combined organic layers were washed four times with water, dried over sodium sulfate, filtered and evaporated in vacuo to provide 195.6 g. of the desired cyclohexenone intermediate as an oil.

reactant | 1,2-bis(4-methoxyphenyl)-1,5-hexanedione | COC1=CC=C(C=C1)C(C(CCC(C)=O)C1=CC=C(C=C1)OC)=O | C20H22O4
reactant | potassium hydroxide | 2N | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | cyclohexenone | C1(C=CCCC1)=O | C6H8O
solvent | ethanol | C(C)O | C2H6O
product | 3,4-bis(4-methoxyphenyl)-2-cyclohexen-1-one | COC1=CC=C(C=C1)C1=CC(CCC1C1=CC=C(C=C1)OC)=O | C20H20O3
